US04122265
Preparation of 5-chloro-3-phenylisoindole-1-carboxylic acid [3-(morpholino)propyl]-methylamide hydrochloride.
A solution of 7.6 g. of o-benzoyl-p-chlorophenylglyoxylic acid (3-chloropropyl)methylamide in 40 ml. of ethyl methyl ketone is treated with 3.0 g. of sodium iodide and 3.5 g. of morpholine and the mixture is boiled at reflux for 30 hours. After concentration under reduced pressure, the residue is partitioned between water and methylene chloride, the organic phase washed with water, dried over sodium sulfate and concentrated to dryness. The residual oily base is purified on 500 g. of aluminum oxide using methylene chloride/ethyl acetate (4:1) for the elution, dissolved in diethyl ether and treated with excess ethereal hydrochloric acid. The hydrochloride which crystallizes out is recrystallized from isopropanol/diethyl ether, and there is obtained 4.9 g. of o-benzoyl-p-chlorophenylglyoxylic acid [3-(morpholino)propyl] methylamide hydrochloride in the form of light yellow crystals having a melting point of 169°-172° C. (decomposition).

reactant | o-benzoyl-p-chlorophenylglyoxylic acid (3-chloropropyl)methylamide | ClCCCN(C(C(=O)C1=C(C=C(C=C1)Cl)C(C1=CC=CC=C1)=O)=O)C | C19H17Cl2NO3
reactant | sodium iodide | [I-].[Na+]
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | o-benzoyl-p-chlorophenylglyoxylic acid [3-(morpholino)propyl] methylamide hydrochloride | Cl.O1CCN(CC1)CCCN(C(C(=O)C1=C(C=C(C=C1)Cl)C(C1=CC=CC=C1)=O)=O)C
solvent | ethyl methyl ketone | CC(=O)CC | C4H8O
product | 5-chloro-3-phenylisoindole-1-carboxylic acid [3-(morpholino)propyl]-methylamide hydrochloride | Cl.O1CCN(CC1)CCCN(C(=O)C=1NC(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)C | InChI=1S/C23H26ClN3O2.ClH/c1-26(10-5-11-27-12-14-29-15-13-27)23(28)22-19-9-8-18(24)16-20(19)21(25-22)17-6-3-2-4-7-17;/h2-4,6-9,16,25H,5,10-15H2,1H3;1H
